US05770743
3-Chloropropyl 3-hydroxybenzoate.
A solution of 3-hydroxybenzoic acid (16.0 g, 0.115 mol) in 3-chloropropanol (76 g, 0.81 mol) and 0.5 mL of concentrated sulfuric acid was refluxed overnight. The excess alcohol was removed by vacuum distillation. The brown viscous residue was dissolved in ethyl acetate (60 mL) and washed with water (2×15 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The brown viscous residue was purified by column chromatography (ethyl acetate/hexane, 30:70) to give the product as a white solid (23.3 g, 0.108 mol, 93.7%): 1H NMR (CDCl3) δ 2.19-2.28 (m, 2H), 3.69 (t, 2H, J=6.3 Hz), 4.48 (t, 2H, J=6Hz), 5.92 (s, 1H), 7.05-7.64 (m, 4H); MS exact mass: calcd. 214,0396, found 214.0400.

reactant | 3-hydroxybenzoic acid | 0.115 mol, 16.0 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | 3-chloropropanol | 0.81 mol, 76 g | ClCCCO | C3H7ClO
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | 3-Chloropropyl 3-hydroxybenzoate | 0.108 mol, 23.3 g, 93.7% | OC=1C=C(C(=O)OCCCCl)C=CC1 | C10H11ClO3
